US07030116B2
(R)-4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-N-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propyl]-butyramide
It is similarly prepared according to general procedure given for Example 2 above but using 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyric acid and (S)-2-Amino-1-(3-phenyl-1,2,4-oxadiazol-5-yl)-butan-1-ol.

reactant | 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyric acid | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | (S)-2-Amino-1-(3-phenyl-1,2,4-oxadiazol-5-yl)-butan-1-ol | NC([C@H](O)C1=NC(=NO1)C1=CC=CC=C1)CC | C12H15N3O2
product | (R)-4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-N-[(S)-1-(3-phenyl-1,2,4-oxadiazole-5-carbonyl)-propyl]-butyramide | N1(CCOCC1)C(C[C@H](C(=O)N[C@@H](CC)C(=O)C1=NC(=NO1)C1=CC=CC=C1)CS(=O)(=O)CC1=CC=CC=C1)=O | C28H32N4O7S
